US07338960B2
1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-hexanol
A solution of 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde (300 mg, 1.19 mmol) in dry toluene (12 mL) under nitrogen was cooled to 0° C. (ice/water bath) and treated with n-pentylmagnesium bromide (0.66 mL of a 2M solution in Et2O, 1.31 mmol) and the resulting mixture was stirred at 0° C. for 2 hours. The reaction was then quenched by the cautious addition of aqueous HCl (2M, 2 mL) and the solvent was removed under vacuum and the residue partitioned between EtOAc (2×50 mL) and aqueous HCl (2M, 50 mL). The organic solution was washed with water (60 mL) then brine (60 mL), dried (MgSO4) and reduced. Purification by SPE (silica, 20 g cartridge) eluting with cyclohexane:EtOAc (gradient 99:1 to 19:1) afforded the title compound as a colourless oil (131 mg).

reactant | 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde | 1.19 mmol, 300 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
reactant | n-pentylmagnesium bromide | C(CCCC)[Mg]Br
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | 1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-hexanol | 131 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCCC)O)(F)F | C18H20F3NO
